US04000156
1-(p-methylsulphonylphenyl)-3-amino-4-methyl-2-pyrazolin-5-one.
In a 3 liter autoclave were placed: 151.8 g (0.6 mole) of 1-(p-methylsulphonylphenyl)-3-amino-2-pyrazolin-5-one, 27 g (0.9 mole) of paraformaldehyde, 115.5 g (1.5 mole) of ammonium acetate, 60 g of Raney nickel and 1735 ml of methanol. The autoclave was charged with hydrogen to a pressure of 1500 psi. After reduction for 2 h at 100° C the catalyst was filtered off and the filtrate was neutralized by addition of 100 ml of concentrated hydrochloric acid. The filtrate was concentrated by evaporation and the residue was diluted by addition of 300 ml of water. The precipitate was separated and treated with boiling acetonitrile. Yield: 65 g (40%). Melting Point: 239°-240° C.

reactant | 1-(p-methylsulphonylphenyl)-3-amino-2-pyrazolin-5-one | 0.6 mole, 151.8 g | CS(=O)(=O)C1=CC=C(C=C1)N1N=C(CC1=O)N | C10H11N3O3S
reactant | paraformaldehyde | 0.9 mole, 27 g | C=O | CH2O
reactant | ammonium acetate | 1.5 mole, 115.5 g | C(C)(=O)[O-].[NH4+]
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 60 g | [Ni] | Ni
solvent | methanol | 1735 ml | CO | CH4O
product | 1-(p-methylsulphonylphenyl)-3-amino-4-methyl-2-pyrazolin-5-one | CS(=O)(=O)C1=CC=C(C=C1)N1N=C(C(C1=O)C)N | C11H13N3O3S
